US06956052B2
A 50 mL round bottomed flask with a magnetic stir bar was charged with 1-(4-bromophenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (987 mg, 1.89 mmol), palladium (II) acetate (44 mg, 0.19 mmol), 1,1′-biphenyl-2-yl[di(tert-butyl)]phosphine (254 mg, 0.822 mmol), and dimethylformamide (20 mL). The resulting solution was sparged with argon for 10 minutes. To the solution was added 2-methyl-3-buten-2-ol (823 mg, 6.07 mmol) and triethylamine (614 mg, 6.07 mmol). The solution was sparged with argon for an additional 2 minutes. The flask was sealed with a rubber septum and heated to 100° C. in an oil bath for 90 minutes. The reaction was allowed to cool to room temperature and water was added. The resulting precipitate was collected and purified by silica gel chromatography (100% hexane to 100% ethyl acetate). The pure fractions were combined, concentrated to dryness, triturated with diethyl ether, and dried under vacuum to give 215 mg of 8-[(2-chlorobenzoyl)amino]-1-{4-[(1E)-3-hydroxy-3-methylbut-1-enyl]phenyl}-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (0.408 mmol, 21% yield) as a solid. 1H NMR (400 MHz, DMSO-d6) δ 1.29 (s, 6 H), 2.88-2.98 (m, 4 H), 4.76 (s, 1 H), 6.48 (d, 1 H), 6.58 (d, 1 H), 7.23 (d, 1 H), 7.30-7.50 (m, 8 H), 7.53-7.59 (m, 3 H), 10.28 (s, 1 H); MS (ESI+) for C30H27ClN4O3 m/z 527 (M+H)+.

reactant | 1-(4-bromophenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 1.89 mmol, 987 mg | BrC1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N | C25H18BrClN4O2
reactant | 1,1′-biphenyl-2-yl[di(tert-butyl)]phosphine | 0.822 mmol, 254 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | 2-methyl-3-buten-2-ol | 6.07 mmol, 823 mg | CC(C)(C=C)O | C5H10O
reactant | triethylamine | 6.07 mmol, 614 mg | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) acetate | 0.19 mmol, 44 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 8-[(2-chlorobenzoyl)amino]-1-{4-[(1E)-3-hydroxy-3-methylbut-1-enyl]phenyl}-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 0.408 mmol, 215 mg, 21% yield | ClC1=C(C(=O)NC2=CC3=C(CCC=4C(=NN(C34)C3=CC=C(C=C3)\C=C\C(C)(C)O)C(=O)N)C=C2)C=CC=C1 | C30H27ClN4O3
